US07153997B2
Bromine (13 μL, 0.26 mmol) was added dropwise to a well stirred mixture of methyl-N-[3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)benzoyl]glycine (50 mg, 0.12 mmol), acetic acid (1.0 mL), sodium acetate (35 mg, 0.26 mmol) and a few drops of water. The reaction mixture was stirred at room temperature for three hours, heated at 40° C. for 90 minutes and finally left at room temperature for 16 hours. Sodium acetate (17 mg) and bromine (6 μL) was added and the reaction mixture heated to 40° C. for two hours. The reaction mixture was left at 4° C. for three days. Sodium thiosulfate (saturated) was added and the yellow mixture concentrated. The residue was diluted with ethyl acetate and washed with water. The aqueous phase was extracted with dichloromethane, the combined organic phases washed with brine and dried over sodium sulfate. After concentration, the residue was purified on column (hplc, C8, acetonitrile/water/formic acid, gradient elution from 20/80/0.5 to 100/0/0) to give 1.0 mg (2%) of methyl-N-[3,5-dichloro-4-(2-bromo-4-methoxy-5-isopropylphenoxy)benzoyl]glycine.

reactant | Bromine | 0.26 mmol, 13 μL | BrBr | Br2
reactant | methyl-N-[3,5-dichloro-4-(4-methoxy-3-isopropylphenoxy)benzoyl]glycine | 0.12 mmol, 50 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)C)Cl)=O | C20H21Cl2NO5
reactant | sodium acetate | 0.26 mmol, 35 mg | C(C)(=O)[O-].[Na+]
reactant | Sodium acetate | 17 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 6 μL | BrBr | Br2
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | water | a few drops | O | H2O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | methyl-N-[3,5-dichloro-4-(2-bromo-4-methoxy-5-isopropylphenoxy)benzoyl]glycine | 1.0 mg, 2% | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=C(C=C(C(=C1)C(C)C)OC)Br)Cl)=O | C20H20BrCl2NO5
